US04892882
A solution of 757 mg of 3-dimethylcarbamoyloxy-5-methylthiomethylisoxazole in 5 ml of methylene chloride was added dropwise over a period of 30 minutes, with stirring, to an ice-cooled solution of 711 mg of m-chloroperbenzoic acid in 15 ml of methylene chloride. The mixture was then stirred for a further 30 minutes, after which it was filtered and the precipitate was washed with 2 ml of methylene chloride. The filtrate and the washings were combined, and then the solvent was removed by distillation, leaving a colourless, crystalline residue, which was recrystallized from diethyl ether, to give 700 mg (yield 86.1%) of 3-dimethylcarbamoyloxy-5-methylsulphinylmethylisoxazole, in the form of colourless needles melting at 84°-85° C.

reactant | 3-dimethylcarbamoyloxy-5-methylthiomethylisoxazole | 757 mg | CN(C(=O)OC1=NOC(=C1)CSC)C | C8H12N2O3S
reactant | m-chloroperbenzoic acid | 711 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 3-dimethylcarbamoyloxy-5-methylsulphinylmethylisoxazole | 700 mg, yield 86.1% | CN(C(=O)OC1=NOC(=C1)CS(=O)C)C | C8H12N2O4S
